US04284582
A mixture of ethyl cyanoacetate (24.88 parts), 1,1-dichloro-4-methylpenta-1,3-diene (30.2 parts) cupric chloride (2.68 parts), calcium carbonate (40 parts), calcium chloride and potassium bromide as indicated in the table below, is heated in water in the presence of a phase transfer catalyst (either cetyl trimethyl ammonium bromide (CTMAB) or methyl triethyl ammonium chloride (MTEAC)]]. Sodium hypochlorite solution, bromine or chlorine are then added at a uniform rate to the mixture at an elevated temperature. Heating is continued for a further period. After cooling the reaction mixture, the suspension is diluted with butyl acetate (100 parts by volume). Concentrated hydrochloric acid (50 parts by volume) diluted with water (100 parts) is slowly added, the mixture is stirred for about 30 minutes and then filtered to remove extraneous matter. The butyl acetate layer is separated and washed with water (4×50 parts). The butyl acetate is removed by distillation under reduced pressure to yield crude ethyl 1-cyano-3-(2',2'-dichlorovinyl)-2,2-dimethylcyclopropane -1-carboxylate. Details of the reaction conditions are given in the table below, together with the yield, strength and composition of the product.

reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
reactant | 1,1-dichloro-4-methylpenta-1,3-diene | ClC(=CC=C(C)C)Cl | C6H8Cl2
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | potassium bromide | [Br-].[K+]
reactant | Sodium hypochlorite | Cl[O-].[Na+]
reactant | bromine | BrBr | Br2
reactant | chlorine | ClCl | Cl2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
catalyst | cetyl trimethyl ammonium bromide | [Br-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
catalyst | methyl triethyl ammonium chloride | [Cl-].C[N+](CC)(CC)CC
solvent | butyl acetate | C(C)(=O)OCCCC | C6H12O2
product | ethyl 1-cyano-3-(2',2'-dichlorovinyl)-2,2-dimethylcyclopropane -1-carboxylate | C(#N)C1(C(C1C=C(Cl)Cl)(C)C)C(=O)OCC | C11H13Cl2NO2
